US08957070B2
N-[2-(4,5-Dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-3-(methylsulfonyl)-N-{[3-(methylsulfonyl)phenyl]sulfonyl}benzenesulfonamide
To a mixture of 2-(4,5-dihydro-1,3-thiazol-2-yl)-1H-indole-7-amine (100 mg) and pyridine (3 mL) was added 3-(methylsulfonyl)benzenesulfonyl chloride (140 mg) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1) to give the title compound (41 mg, yield 14%) as pale-yellow crystals. M+1=654.

reactant | 2-(4,5-dihydro-1,3-thiazol-2-yl)-1H-indole-7-amine | 100 mg | S1C(=NCC1)C=1NC2=C(C=CC=C2C1)N | C11H11N3S
reactant | 3-(methylsulfonyl)benzenesulfonyl chloride | 140 mg | CS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO4S2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N-[2-(4,5-Dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-3-(methylsulfonyl)-N-{[3-(methylsulfonyl)phenyl]sulfonyl}benzenesulfonamide | 41 mg, yield 14% | S1C(=NCC1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C)S(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C | C25H23N3O8S5
